US07566699B2
3-Ethynyl-4-methoxybenzo[b]thiophene (0.2 g) was dissolved in triethylamine (4mL). To the solution were added 4-iodobenzoic acid (0.29 g), tetrakis(triphenylphosphine)palladium (0) (0.12 g) and copper (I) iodide (41 mg), and the mixture was heated for ref lux under an argon atmosphere overnight. The reaction mixture was poured into ethyl acetate-1 mol/L hydrochloric acid, and the insoluble material was removed by filtration. The organic layer was separated from the filtrate, washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-1/2) to give 3-[2-(4-carboxyphenyl)ethynyl]-4-methoxybenzo[b]thiophene (0.32 g). This material was dissolved in N,N-dimethylformamide (10 mL). To the solution were added potassium carbonate (0.29 g) and benzyl bromide (0.16 mL), and the mixture was stirred at room temperature for three hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethylether. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=10/1) to give the title compound (0.2 g).

reactant | 3-Ethynyl-4-methoxybenzo[b]thiophene | 0.2 g | C(#C)C=1C2=C(SC1)C=CC=C2OC | C11H8OS
reactant | 4-iodobenzoic acid | 0.29 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | ethyl acetate | 1 mol/L | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 4mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 41 mg | [Cu]I
product | 3-[2-(4-carboxyphenyl)ethynyl]-4-methoxybenzo[b]thiophene | 0.32 g | C(=O)(O)C1=CC=C(C=C1)C#CC=1C2=C(SC1)C=CC=C2OC | C18H12O3S
